US05798311
To 28.4 g (213 mmole) of anhydrous potassium carbonate suspended in 100 ml of methyl ethyl ketone was added 20 g (213 mmole) of phenol and 47 g (201 mmole) of 2-bromo-4'-chloroacetophenone. The reaction mixture was refluxed for 2.5 hours, cooled, concentrated in vacuo, partitioned between diethyl ether and water, washed with dilute aqueous sodium hydroxide, washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to yield 25 g of 2-phenoxy-4'-chloroacetophenone, a white solid, mp 80°-83° C.

reactant | potassium carbonate | 213 mmole, 28.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 213 mmole, 20 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-bromo-4'-chloroacetophenone | 201 mmole, 47 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-phenoxy-4'-chloroacetophenone | 25 g | O(C1=CC=CC=C1)CC(=O)C1=CC=C(C=C1)Cl | C14H11ClO2
